US07291631B2
Using General Procedure B: Reaction of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-2-carbaldehyde in CH2Cl2 with 1-pyridin-2-yl-ethylamine and NaBH(OAc)3 gave (1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amine as a pale green oil.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-2-carbaldehyde | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
reactant | 1-pyridin-2-yl-ethylamine | N1=C(C=CC=C1)C(C)N | C7H10N2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amine | N1=C(C=CC=C1)C(C)NCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C21H30N4OSi
